US09227978B2
Ethyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate
To a solution of 4-chloro-5-iodo-2-methoxybenzenamine (6 g, 21.2 mmol) in MeOH (50 mL) at room temperature, AcOH (3 drops) and ethyl glyoxalate (5.6 g, 27.5 mmol, 50% in toluene) were added. The mixture was stirred at room temperature for 2 h and then sodium cyanoborohydride (5.32 g, 84.8 mmol) was added to the mixture. The resulting mixture was stirred at 50° C. for 16 h. The mixture was allowed to cool to room temperature, and partitioned between ethyl acetate and water. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to afford the crude product (8.6 g).

reactant | 4-chloro-5-iodo-2-methoxybenzenamine | 21.2 mmol, 6 g | ClC1=CC(=C(C=C1I)N)OC | C7H7ClINO
reactant | ethyl glyoxalate | 27.5 mmol, 5.6 g | C(C=O)(=O)OCC | C4H6O3
reactant | sodium cyanoborohydride | 84.8 mmol, 5.32 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
catalyst | AcOH | 3 drops | CC(=O)O | C2H4O2
product | Ethyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetate | 8.6 g | ClC1=CC(=C(C=C1I)NCC(=O)OCC)OC | C11H13ClINO3
